US05132328
Using the procedure described in Example 12, 2-(3-hydroxyphenyl)-2-methoxy-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)but-1-yl methyl ether was reacted with 3-phenylprop-2-ynyl bromide to give 2-methoxy-2-[3-(3-phenylprop-2-ynyloxy)phenyl]-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)but-1-yl methyl ether in 85% yield, as an oil.

reactant | 2-(3-hydroxyphenyl)-2-methoxy-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)but-1-yl methyl ether | COCC(CCC1(OCC(CO1)(C)C)C)(OC)C1=CC(=CC=C1)O | C19H30O5
reactant | 3-phenylprop-2-ynyl bromide | C1(=CC=CC=C1)C#CCBr | C9H7Br
product | 2-methoxy-2-[3-(3-phenylprop-2-ynyloxy)phenyl]-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)but-1-yl methyl ether | 85% yield | COCC(CCC1(OCC(CO1)(C)C)C)(C1=CC(=CC=C1)OCC#CC1=CC=CC=C1)OC | C28H36O5
